US08476426B2
2-{3-[{[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}-(methyl)amino]propyl}-1H-isoindole-1,3(2H)-dione
5.3 g (25.5 mmoles) of 1-[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]-N-methyl-methanamine and 6.8 g (25.5 mmoles) of 2-(3-bromopropyl)-1H-isoindole-1,3(2H)-dione are dissolved in 230 mL of acetone. 13 g (95 mmoles, 3.7 eq.) of potassium carbonate are added to the resulting solution. The mixture is then heated at reflux for 24 hours. After returning to ambient temperature, the potassium carbonate is filtered off and the filtrate is evaporated to dryness. The residue is taken up in water and extracted with dichloromethane. The organic phase is dried over MgSO4, filtered and evaporated to dryness. 9.7 g of expected product are obtained in the form of a pale yellow oil.

reactant | 1-[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]-N-methyl-methanamine | 25.5 mmoles, 5.3 g | COC=1C=C2C[C@@H](C2=CC1OC)CNC | C12H17NO2
reactant | 2-(3-bromopropyl)-1H-isoindole-1,3(2H)-dione | 25.5 mmoles, 6.8 g | BrCCCN1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
reactant | potassium carbonate | 95 mmoles, 13 g, 3.7 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 230 mL | CC(=O)C | C3H6O
product | 2-{3-[{[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}-(methyl)amino]propyl}-1H-isoindole-1,3(2H)-dione | 9.7 g, Yield=97% | COC=1C=C2C[C@@H](C2=CC1OC)CN(CCCN1C(C2=CC=CC=C2C1=O)=O)C | C23H26N2O4
